US03981886
2-Amino-4-(2-ethyl-3-methoxyphenyl)-1,3-bis[(3-methyl-4-propylphenoxy)methyl]-1H-benzimidazol-3-ium bromide
Following the procedure of Example 2 and replacing 2-aminobenzimidazole with 2-amino-4-(2-ethyl-3-methoxyphenyl)benzimidazole and replacing 2-bromo-4-chlorophenyl chloromethyl ether with 3-methyl-4-propylphenyl bromomethyl ether, the title compound is obtained.

reactant | 2-amino-4-(2-ethyl-3-methoxyphenyl)benzimidazole | NC=1NC2=C(N1)C=CC=C2C2=C(C(=CC=C2)OC)CC | C16H17N3O
reactant | 3-methyl-4-propylphenyl bromomethyl ether | BrCOC1=CC(=C(C=C1)CCC)C | C11H15BrO
product | 2-Amino-4-(2-ethyl-3-methoxyphenyl)-1,3-bis[(3-methyl-4-propylphenoxy)methyl]-1H-benzimidazol-3-ium bromide | [Br-].NC1=[N+](C2=C(N1COC1=CC(=C(C=C1)CCC)C)C=CC=C2C2=C(C(=CC=C2)OC)CC)COC2=CC(=C(C=C2)CCC)C | InChI=1S/C38H45N3O3.BrH/c1-7-12-28-18-20-30(22-26(28)4)43-24-40-35-16-10-15-34(33-14-11-17-36(42-6)32(33)9-3)37(35)41(38(40)39)25-44-31-21-19-29(13-8-2)27(5)23-31;/h10-11,14-23,39H,7-9,12-13,24-25H2,1-6H3;1H
